US08710243B2
2-(3,5-dimethylisothiazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile (38 mg, 0.11 mmol) was dissolved in 10 ml DCM and the mixture was cooled in an ice bath. BF3.SMe2 (0.56 ml, 5.29 mmol) was added drop wise and the mixture was stirred at 0-2° C. for 16 h. A few drops MeOH were added followed by NaHCO3 (aq, sat). The layers were separated and the organic layer was concentrated. The crude product was purified by preparative HPLC. 18.0 mg 2-(3,5-dimethylisothiazol-4-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile was obtained.

reactant | 2-(3,5-dimethylisothiazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile | 0.11 mmol, 38 mg | CC1=NSC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)OC)C#N)C | C21H17N3OS
reactant | BF3 | B(F)(F)F | BF3
reactant | SMe2 | 5.29 mmol, 0.56 ml | S(C)C | C2H6S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | MeOH | A few drops | CO | CH4O
product | 2-(3,5-dimethylisothiazol-4-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile | 18.0 mg | CC1=NSC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)O)C#N)C | C20H15N3OS
